US04477447
n-Nonanoyl chloride (23 g) was dropwise added to a stirred solution of glycerin (6.0 g) in dry pyridine (60 ml) at 0° to 5° C. over 30 minutes. The mixture was stirred at the same temperature for an hour, and then allowed to stand at room temperature overnight. The resultant mixture was poured into ice water (300 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with water (10 ml), 10% aqueous hydrochloric acid and a saturated aqueous solution of sodium chloride (40 ml) in turn, and then dried over anhydrous magnesium sulfate. The solution was evaporated in vacuo, and the residue was subjected to column chromatography on silica gel (636 g) with a mixture of chloroform and acetone (30:1). The eluate was evaporated in vacuo to give 1,3-di-n-nonanoyloxy-2-propanol, mp 30°-31° C.

reactant | n-Nonanoyl chloride | 23 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | glycerin | 6.0 g | OCC(O)CO | C3H8O3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-di-n-nonanoyloxy-2-propanol | C(CCCCCCCC)(=O)OCC(COC(CCCCCCCC)=O)O | C21H40O5
